US04067723
A solution of 1-(2-ethylphenyl)-1-(2-furyl)ethylene (27 g.) in ethanol (150 ml.) in the presence of 10% palladium on charcoal (0.5 g.) was treated with hydrogen at room temperature for 3 hours. The mixture was filtered and evaporated to give a clear oil which was distilled to give (±) 2-[1-(2-ethylphenyl)ethyl]-furan (23.9 g.), b.p. 130°-150° C./20 mm.Hg, in the form of a yellow oil.

reactant | 1-(2-ethylphenyl)-1-(2-furyl)ethylene | 27 g | C(C)C1=C(C=CC=C1)C(=C)C=1OC=CC1 | C14H14O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
product | (±) 2-[1-(2-ethylphenyl)ethyl]-furan | 23.9 g | C(C)C1=C(C=CC=C1)C(C)C=1OC=CC1 | C14H16O
